US08232272B2
N-(2-nitro-4-propanoylphenyl)acetamide
To 140 ml of nitric acid are added portionwise, while maintaining the temperature at −20° C., 37.8 g (198 mM) of N-(4-propanoylphenyl)acetamide. The reaction medium is then poured into a water/ice mixture. The solid that precipitates out is filtered off and washed with water to give, after drying, 37.6 g of N-(2-nitro-4-propanoylphenyl)acetamide in the form of a pale yellow solid.

reactant | N-(4-propanoylphenyl)acetamide | 198 mM, 37.8 g | C(CC)(=O)C1=CC=C(C=C1)NC(C)=O | C11H13NO2
reactant | nitric acid | 140 ml | [N+](=O)(O)[O-] | HNO3
product | N-(2-nitro-4-propanoylphenyl)acetamide | [N+](=O)([O-])C1=C(C=CC(=C1)C(CC)=O)NC(C)=O | C11H12N2O4
